US05214143
2-Amino-4-fluoro-6-trifluoromethoxy-1,3,5-triazine
4.4 g (0.259 mol) of gaseous ammonia were passed over the course of 45 minutes into a stirred mixture of 26.0 g (0.1293 mol) of 2,4-difluoro-6-trifluoromethoxy-1,3,5-triazine and 100 ml of tetrahydrofuran at -70° to -65° C. The mixture was then stirred for 2 hours at -70° C. and overnight while warming to 22° C. The residue from concentration under reduced pressure was stirred with water, filtered off with suction and washed. Drying yielded 22 g (85.9% of theory) of the title compound of melting point 138°-139° C.

reactant | ammonia | 0.259 mol, 4.4 g | N | H3N
reactant | 2,4-difluoro-6-trifluoromethoxy-1,3,5-triazine | 0.1293 mol, 26.0 g | FC1=NC(=NC(=N1)F)OC(F)(F)F | C4F5N3O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Amino-4-fluoro-6-trifluoromethoxy-1,3,5-triazine | NC1=NC(=NC(=N1)F)OC(F)(F)F | C4H2F4N4O
